US08754256B2
reacting methyl dichloroacetate and acrylic acid methyl ester with sodium methoxide to obtain dimethyl 2,2-dichloroglutarate;

reactant | methyl dichloroacetate | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | acrylic acid methyl ester | COC(C=C)=O | C4H6O2
reactant | sodium methoxide | C[O-].[Na+]
product | dimethyl 2,2-dichloroglutarate | ClC(C(=O)OC)(CCC(=O)OC)Cl | C7H10Cl2O4
